.title Bias mirror - schematic check
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.include /foss/designs/sscs-chipathon-2026/bias/bias.spice

VDD VDD GND 3.3
Xbias Ibias25u_0 Ibias25u_1 Ibias25u_2 Ibias25u_3 Ibias25u_4 Ibias5u VDD GND bias

Vd1 VDD Ibias25u_0 0.8
Vd2 VDD Ibias25u_1 0.8
Vd3 VDD Ibias25u_2 0.8
Vd4 VDD Ibias25u_3 0.8
Vd5 VDD Ibias25u_4 0.8
Vd6 VDD Ibias5u 0.8

.control
op
echo "--- 25uA outputs ---"
print i(Vd1) i(Vd2) i(Vd3) i(Vd4) i(Vd5)
echo "--- 5uA output ---"
print i(Vd6)
.endc
.end
